Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
ascending aortic aneurysm
 
Major Surgical or Invasive Procedure:
___ Bentall procedure (#29 ___

 
History of Present Illness:
This ___ year old male underwent an echocardiogram that revealed 
an ascending aortic aneurysm of 6.4cm and aortic regurgitation.  
He underwent cardiac catheterization for evaluation, that 
revealed no coronary artery disease.  He is now transferred for 
surgical evaluation
 
Past Medical History:
Hypertension 
Dyslipidemia 
 
Social History:
___
Family History:
Family History: non contibutory 

 
Physical Exam:
Admission:

Pulse: 73  Resp: 18  O2 sat: 96 RA 
B/P  Right: 112/75   Left: 123/77 

___: NAD 
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [] expiratory wheeze left upper 
Heart: RRR [x]  Irregular []  Murmur no
Abdomen: Soft[x]non-distended[x]non-tender[x]bowel sounds + [x]
Extremities: Warm [x], well-perfused [x]  Edema none
Varicosities: None [x]
Neuro: alert and oriented x3 non focal 
Pulses:
Femoral      Right: +2  Left: +2
DP           Right: +2  Left: +2
___           Right: +2  Left: +2
Radial       Right: +2  Left: +2

Carotid Bruit        Right: no bruit    Left:  no bruit 

 
Pertinent Results:
Intra-op echo ___
PRE-BYPASS: 
The left atrium is dilated. No spontaneous echo contrast or 
thrombus is seen in the body of the left atrium/left atrial 
appendage or the body of the right atrium/right atrial 
appendage. No atrial septal defect is seen by 2D or color 
Doppler.
There is mild symmetric left ventricular hypertrophy with normal 
cavity size and regional/global systolic function (LVEF>55%).
Right ventricular chamber size and free wall motion are normal. 
The aortic root is markedly dilated at the sinus level. The 
ascending aorta is markedly dilated upto the mid level. The 
aortic arch is mildly dilated. The descending thoracic aorta is 
mildly dilated. There are three aortic valve leaflets. 
Midsystolic closure of the aortic valve leaflets is not seen 
Moderate (2+) aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. Trivial mitral 
regurgitation is seen. There is no pericardial effusion. Dr. 
___ was notified in person of the results on ___.
POST-BYPASS: 
preserved biventricular systolic function.LVEF 55%.The aortic 
valve and the conduit are in place and functioning well. The 
residual peak and mean gradients are 8 and 4mm of Hg 
respectively.Minimal MR, TR and PI.
The thoracic aorta is intact.  
___ 02:55AM BLOOD WBC-7.0 RBC-4.01* Hgb-11.6* Hct-33.8* 
MCV-84 MCH-29.0 MCHC-34.4 RDW-12.9 Plt ___
___ 02:55AM BLOOD Glucose-123* UreaN-15 Creat-0.8 Na-133 
K-4.1 Cl-94* HCO3-32 AnGap-11
___ 02:55AM BLOOD ___ PTT-51.4* ___
___ 11:00AM BLOOD ___ PTT-31.0 ___
___ 03:35AM BLOOD ___ PTT-33.5 ___
___ 08:25AM BLOOD ___
___ 05:20AM BLOOD ___
___ 05:05AM BLOOD ___
 
Brief Hospital Course:
He was transferred from an outside hospital for evaluation of 
the ascending aortic aneurysm found incidentially on 
echocardiogram.  He underwent preoperative workup that included 
a CT scan and echocardiogram.  His medications were adjusted for 
blood pressure management and episodes of atrial fibrillation 
and junctional rhythm.  
On ___ he was brought to the Operating Room and underwent a 
Bentall procedure with a 29 mm mechanical ___ aortic valve 
conduit.  See operative report for further details.  He received 
vancomycin for perioperative antibiotics.  He weaned from bypass 
on Neo Synephrine and Propofol infusions and transferred to the 
intensive care unit for post operative management.  

In the first ___ hours he was weaned from sedationand 
pressors, awoke neurologically intact and was extubated without 
complications.  On post operative day one he was started on 
Coumadin for his mechanical valve and transferred to the floor.  
Chest tubes and pacing wires were discontinued without 
complication according to prootocol.  Physical Therapy worked 
with him on strength and mobility. He was placed on continuous 
O2 sat monitoring and found to be desaturating at nighttime, the 
Sleep Medicine Service was consulted (see note). He had a CPAP 
trial and did not desaturate.  They recommended he be discharged 
home on oxygen, but not CPAP.  He will follow up with the sleep 
clinic as an outpatient.  On postoperative day three he was 
started on Heparin to bridge until his INR was therapuetic.  He 
continued to have dysrhythmia and EP was consulted.  EP 
diagnosed sinus arrest with junctional escape rhythm v. atrial 
fibrillation with junctional escape rhythm,  most likely due to 
post-op inflammation/edema of the conduction system.  AV 
conduction was found to be intact, thus a pacemaker was not 
indicated.  

Beta blocker was titrated carefully, and rhythm was mostly sinus 
by time of discharge.  When the INR became therapeutic the 
Heparin was stopped anfd the INR goal was 2.5-3.5.  The patient 
was discharged home in good condition with ___ services on POD 
8.  

Arrangements were made for his primary care physician 
(___) to manage his anticoagulation. Follow up 
appointments, restrictions, precautions and medications were 
discussed with him prior to discharge.
 
Medications on Admission:
Fish oil 500 mg TID 
Hydrochlorathiazide 25 mg daily 
Lisinopril 20 mg daily 
Lovastatin 20 mg daily 
Toprol XL 25 mg daily
 
Discharge Medications:
1. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
2. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q6H (every 6 hours).
Disp:*qs qs* Refills:*0*
3. Lovastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
4. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
5. Outpatient Lab Work
Serial ___
dx: mechanical aortic valve
goal INR ___
Results to Dr. ___ ___  
6. Oxygen 
___ liters continuous
For portability 
pulses dose system 
Diagnosis - COPD 
Sat 86% at rest room air saturation 
7. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain for 4 weeks.
Disp:*50 Tablet(s)* Refills:*0*
8. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*3*
9. Omega-3 Fatty Acids     Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
10. Amiodarone 200 mg Tablet Sig: Two (2) Tablet PO twice a day 
as needed for atrial fibrillation: 2 tablets twice daily for two 
weeks, then 2 tablets daily for a week, then one tablet daily.
Disp:*100 Tablet(s)* Refills:*0*
11. Metoprolol Tartrate 50 mg Tablet Sig: 1.5 Tablets PO three 
times a day.
Disp:*135 Tablet(s)* Refills:*2*
12. Dyazide 37.5-25 mg Capsule Sig: One (1) Capsule PO once a 
day.
Disp:*30 Capsule(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
s/p Bentall procedure(29mm ___ mechanical)
ascending aortic aneurysm
aortic insufficiency
Hypertension 
Dyslipidemia 

 
Discharge Condition:
Alert and oriented x3, nonfocal 
Ambulating, gait steady
Sternal pain managed with Percocet prn 

 
Discharge Instructions:
 
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month until follow up with 
surgeon
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns (___)
Your INR will be followed by Dr. ___ (___)- Your 
INR needs to be drawn on ___ at ___, 
Dr. ___ will follow.
Smoking cessation - it is very important as discussed not to 
resume smoking. Please follow up with your primary care provider 
if you develop urges to smoke for interventions. 
 
Followup Instructions:
___